US08138187B2
Indole Unit Ind-26
2-(5-Fluoro-6-methoxy-1H-indol-3-yl)ethanol (Ind-26) A solution of dihydrofuran (242 mg, 3.46 mmol) in acetonitrile (10 ml) was added dropwise to a solution of (4-fluoro-3-methoxyphenyl)hydrazine hydrochloride [1.00 g, 3.46 mmol (based on a purity of the educt of 68%)] in acetonitrile (30 ml) and 4% aqueous sulfuric acid (30 ml) at room temperature. Thereafter, the temperature was increased to 80° C. and the reaction mixture was stirred at this temperature for 2 h and then cooled to room temperature and the solvent was removed i. vac. 5% sodium bicarbonate solution was added to the residue and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic phases were dried with sodium sulfate and concentrated i. vac.

reactant | 2-(5-Fluoro-6-methoxy-1H-indol-3-yl)ethanol | FC=1C=C2C(=CNC2=CC1OC)CCO | C11H12FNO2
reactant | dihydrofuran | 3.46 mmol, 242 mg | O1CCC=C1 | C4H6O
reactant | (4-fluoro-3-methoxyphenyl)hydrazine hydrochloride | Cl.FC1=C(C=C(C=C1)NN)OC
reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
